US08110575B2
5-(6-(1,4,5,6,7,8-hexahydroimidazo[4,5-d]azepine-6-carbonyl)pyrimidin-4-ylamino)-1,3-di-hydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one
1.2 equivalents (12 μmol) of the amine derivative, 3.4 equivalents DIPEA (34 μmol) and 1.2 equivalents (12 μmol) HATU were added to 4.10 mg (10 μmol) 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride in 0.32 mL DMF and the mixture was shaken overnight at 80° C. The reaction mixture was evaporated down in the vacuum centrifuge at 60° C. The following compounds were able to be synthesised analogously to this working method:

reactant | DIPEA | 34 μmol, 3.4 equivalents | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 12 μmol, 1.2 equivalents | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 6-(2′-oxo-1,1′,2′,3-tetrahydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-5-ylamino)pyrimidine-4-carboxylic acid hydrochloride | 10 μmol, 4.10 mg | Cl.O=C1C2(C=3C(=NC=CC3)N1)CC1=CC=C(C=C1C2)NC2=CC(=NC=N2)C(=O)O
solvent | DMF | 0.32 mL | CN(C)C=O | C3H7NO
product | 5-(6-(1,4,5,6,7,8-hexahydroimidazo[4,5-d]azepine-6-carbonyl)pyrimidin-4-ylamino)-1,3-di-hydrospiro[indene-2,3′-pyrrolo[2,3-b]pyridin]-2′(1′H)-one | N1C=NC2=C1CCN(CC2)C(=O)C2=CC(=NC=N2)NC=2C=C1CC3(C(NC4=NC=CC=C43)=O)CC1=CC2 | C27H24N8O2
